***** LM5060****
* PSpice Model Editor - Version 16.2.0
*$
* LM5060
*****************************************************************************
*  (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
*  TI Confidential – NDA Restrictions per NDA# MIS 36-41
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM5060
* Date: 23Jul2014
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number:
* EVM Users Guide: SNVA413C–October 2009–Revised May 2013 
* Datasheet: SNVS628F–OCTOBER 2009–REVISED APRIL 2013
*
* Model Version: Final 1.00
*****************************************************************************
* Updates:
*
* Final 1.00
* Release to Web.
* 
*****************************************************************************
.SUBCKT LM5060_TRANS nPGD EN GATE TIMER VIN SENSE UVLO OUT OVP GND

X_U825         N16039076 TIMER_LESS_0P3 PRE_TIMER_EN N16018784
+  srlatchrhp_basic_gen PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U828         ENABLED OVERVOLTAGE POWERONRESET N16442478 OR3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_U1         EN N16372962 N163728223 N163728222 COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
E_ABM2         N16039076 0 VALUE { IF(V(EN) > 0.5, V(N16258214), 0)    }
E_GAIN1         N16377628 0 VALUE {1 * V(UVLOCK)}
X_U10         N15920189 NO_OV INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
E_ABM10         TIMERMORE2 0 VALUE { IF(V(TIMER) > 2, 1, 0)    }
X_U13         NPGD N16027749 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
V_VGate_TH         N15832617 OUT 5Vdc
V_V13         N16281084 0 5.1
V_V21         N16008592 0 2V
E_ABM7         POWERONRESET 0 VALUE { IF(V(ENABLE)>0.5 & V(UVLOCK)<0.5 &
+  V(VIN)<5.1 & V(OV)<0.5, 1, 0)    }
G_ABMII20         GATE 0 VALUE { IF(V(NORMAL_OFF) >0.5, 2.2m,0)    }
E_ABM3         DISABLE 0 VALUE { IF(V(ENABLE) <0.5, 1, 0)    }
G_ABMII2         0 GATE VALUE { IF(V(ENABLE) > 0.5, 24u, 0)    }
X_U2         ENABLE NENABLE INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
V_V20         N15942118 0 0.3
E_ABM8         VINMORE5P1 0 VALUE { IF(V(VIN) >5.1, 1, 0)    }
X_U16         VIN N16281084 N16281178 POR_EN COMPHYS_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U25         GATE N15832617 EN_5UA COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U8         N16377628 UV_OK INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
I_I1         EN 0 DC 6u  
X_S1    PGOOD 0 NPGD 0 LM5060_S1 
V_V5         N15923690 OUT_DUP 16.8
X_U821         OV FAULT N16010631 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_R11         OUT N15967910  1k  
R_R4         N15920153 N15920189  1k TC=0,0 
E_ABM9         GATE_OUTMORE5 0 VALUE { IF(V(GATE, OUT) > 5, 1, 0)    }
X_U7         N16377582 UVLO UVLOCK COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
E_ABM5         ENABLED 0 VALUE { IF(V(ENABLE)>0.5 & V(UVLOCK)<0.5 & V(OV)<0.5 &
+  V(VIN)>5.1 , 1, 0)    }
R_R10         SENSE N15967738  500  
X_U822         N16027749 OV PRE_TIMER_EN EN_ITIMER OR3_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
V_V24         N16223410 0 7m
X_U17         POR_EN POR INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
G_ABM2I1         UVLO 0 VALUE { IF ((V(UVLOCK) > 0.5 & V(VIN)>0) , 5.5u, 0)   
+  }
G_ABMII18         N15967738 0 VALUE { IF(V(VIN) > 0, 16u, 0)    }
D_D5         GATE N15923690 DD 
G_ABMII17         GATE 0 VALUE { IF(V(N16010631) >0.5, 80m,0)    }
X_U826         N15942118 TIMER N16225794 TIMER_LESS_0P3 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABM4         STANDBY 0 VALUE { IF(V(ENABLE)>0.5 & V(UVLOCK)>0.5 & V(VIN)>5.1
+  , 1, 0)    }
G_ABMII22         TIMER 0 VALUE { IF(V(N16211241) >0.5, 6m,0)    }
V_V4         N15920053 0 240m
G_ABMII19         N15967910 0 VALUE { IF(V(ENABLE) > 0.5, 8u, 0)    }
X_U816         N15967910 N15967738 PGOOD COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U820         UVLOCK NENABLE POR NORMAL_OFF OR3_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
C_C3         0 N15920189  13n  TC=0,0 
R_R14         N163728222 ENABLE  1n  
G_ABMII16         0 TIMER VALUE { IF(V(EN_5UA) > 0.5, 5u, 0)    }
R_R13         0 UVLO  1e12  
V_V2         N16372962 0 1.5
V_V14         N16281178 0 500m
X_U824         UV_OK NO_OV GD_VIN AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U5         OVP N15920099 N15920053 OV COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U43         TIMER N16008592 TIMER_REACH_2V COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
G_ABMII21         0 TIMER VALUE { IF(V(ENABLE) > 0.5, 6u, 0)    }
V_V8         N15920099 0 2
V_V25         N16225794 0 1m
V_V22         N162322940 N15967738 0.7
X_U814         EN_5UA N16258214 rising_oneshot PARAMS:  PULSE=100u VDD=1 VSS=0
+  VTHRESH=0.5
V_V3         N163728223 0 200m
X_U815         TIMER_REACH_2V NORMAL_OFF FAULT N16008580 srlatchshp_basic_gen
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
G_ABMII23         VIN 0 VALUE { IF(V(DISABLE)>0.5, 0.009m, IF(V(STANDBY)>0.5,
+  0.56m, IF(V(N16442478)>0.5, 1.4m, 0)))    }
R_R12         GND 0  1n  
E_GAIN2         N15920153 0 VALUE {1 * V(OV)}
D_D7         N16223410 TIMER DD 
X_U823         NORMAL_OFF EN_ITIMER N16211241 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
D_D8         N15967910 N162322940 DD 
E_E8         OUT_DUP 0 VALUE { V(OUT, 0) }
V_V7         N16377582 0 1.6
E_ABM6         OVERVOLTAGE 0 VALUE { IF(V(ENABLE)>0.5 & V(UVLOCK)<0.5 &
+  V(VIN)>5.1 & V(OV)>0.5, 1, 0)    }
X_U827         OUT GATE d_d1 PARAMS:
D_D6         N15920189 N15920153 DD
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )

.ENDS LM5060_TRANS
*$
.subckt LM5060_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=1m Voff=0.0V Von=1.0V
.ends LM5060_S1
*******************************************************
*$
**************************************
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT OR3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR3_BASIC_GEN
*$
.SUBCKT NAND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND2_BASIC_GEN
*$
.SUBCKT NAND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &  
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND3_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
**Reset has higher priority in this latch
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))}
*CQint Qint 0 1n
* Cap increased to 100n since simulation needs to be run for several seconds
CQint Qint 0 100n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.ENDS SRLATCHRHP_BASIC_GEN
*$
**Set has higher priority in this latch
.SUBCKT SRLATCHSHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
GQ 0 Qint VALUE = {IF(V(S) > {VTHRESH},5,IF(V(R)>{VTHRESH},-5, 0))}
*CQint Qint 0 1n
* Cap increased to 100n since simulation needs to be run for several seconds
CQint Qint 0 100n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n 
.IC V(Qint) {VSS}
.ENDS SRLATCHSHP_BASIC_GEN
*$
.MODEL DD D( IS=1F N=0.01 TT = 10p )
*$
.SUBCKT LDCR IN OUT
+ PARAMs:  L=1u DCR=0.01 IC=0
L	IN 1  {L} IC={IC}
RDCR	1 OUT {DCR}
.ENDS LDCR
*$
.SUBCKT CESR IN OUT
+ PARAMs:  C=100u ESR=0.01 X=2 IC=0
C	IN 1  {C*X} IC={IC}
RESR	1 OUT {ESR/X}
*LESL 2 OUT {0.6n/X}
.ENDS CESR
*$
.SUBCKT DD1 1 2
D1 1 2 DD1
.MODEL DD1 D( IS=1F N=0.01 TT = 10p )
.ENDS DD1
*$
.SUBCKT D_D1 1 2
D1 1 2 D_D1
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
.ENDS D_D1
*$
.SUBCKT POWERMOS G D S PARAMS: RDSON=16m Ciss=1375p Crss=70p Coss=340p VSP=3.5 RG=1 
* This is a simple model for Power MOSFET.
* The parameters modeled are 
* - RDSon, 
* - Input Capacitance, 
* - Reverse capacitance, 
* - Output capacitance,
* - Switching point voltage (Gate voltage where the FET starts switching), 
* - Gate Resistance
C_C1         S Da  {Coss} IC=0 
R_R1         Da D  10
C_C2         Ga D  {Crss}  IC=0
R_R2         G Ga {RG}
C_C3         Ga S  {Ciss} IC=0
D_D1         S Db Dbreak 
R_R3         Db D 1m
S_switchM         D S Ga S _switchM
RS_switchM         Ga S 100Meg
.MODEL         _switchM VSWITCH Roff=100e6 Ron={RDSON} Voff=1.1 Von={VSP}
.model Dbreak D Is=1e-14 Cjo=.1pF Rs=.1
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
.ends POWERMOS
*$
.SUBCKT D_SCH 1 2
D1 1 2 D_SCH
.MODEL D_SCH D  ( IS=1F RS=14.1m BV=80.0 IBV=500u
+ CJO=159p  M=0.333 N=0.01 TT=14.4n )
.ENDS D_SCH
*$
.SUBCKT D_IN 1 2
D1 1 2 D_IN
.MODEL D_IN D( IS=1e-15 TT=10p Rs=0.05 N=.1  BV=65)
.ENDS D_IN
*$
.SUBCKT RISING_ONESHOT IN OUT PARAMS: PULSE=100n VDD=1 VSS=0 VTHRESH=0.5
D_D1         INT IN DD 
C_C1         0 INT  1n  
X_U22         INT IN_B_DELAYED INV_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS}
+  VTHRESH={VTHRESH}
R_R1         IN INT  {PULSE/(0.693 * 1E-9)}  
X_U1         IN IN_B_DELAYED OUT AND2_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS}
+  VTHRESH={VTHRESH}
.MODEL DD D( IS=1F N=0.01 TT = 10p )
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
.ENDS RISING_ONESHOT
*$